US06713499B2
To a stirred suspension of 2.0 g (4.8 mmol) 1-benzoyl-3-{2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea in 15 ml methanol was added dropwise 0.4 ml (7.25 mmol) 5.4 M sodium methylate solution and stirring continued for 18 hrs at room temperature. The mixture was then concentrated in vactio and the residue subjected to column chromatography (1/1 hexane/ethyl acetate) to afford 1.5 g (100%) {2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea as a beige oil. ES-MS m/e (%): 310 (M+H+, 100).

reactant | 1-benzoyl-3-{2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea | 4.8 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N(CC1CCOCC1)C)OC | C22H27N3O3S
reactant | sodium methylate | 7.25 mmol, 5.4 M, 0.4 ml | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | {2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea | 1.5 g, 100% | COC1=C(C=C(C=C1)N(CC1CCOCC1)C)NC(=S)N | C15H23N3O2S
